US05213699
N,N-Dibenzyl-N'-phenyl-p-phenylenediamine
A well-stirred mixture of N-phenyl-p-phenylenediamine (22.1 g, 0.12 mol) and triethylamine (26.7 g, 0.26 mol) in toluene (300 ml) is treated with benzyl chloride (30.4 g, 0.24 mol). The resulting mixture is warmed to 70°-75° C. for five hours, then cooled and washed with water. The organic fraction is concentrated to an oil that is chromatographed (silica gel; heptane:ethyl acetate) to give the title compound in a yield of 15 g (34%) as a yellow solid melting at 88°-90° C.

reactant | N-phenyl-p-phenylenediamine | 0.12 mol, 22.1 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | triethylamine | 0.26 mol, 26.7 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 0.24 mol, 30.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dibenzyl-N'-phenyl-p-phenylenediamine | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)NC1=CC=CC=C1)CC1=CC=CC=C1 | C26H24N2
